US08563575B2
A mixture of 4-chloro-5-nitropyrimidine (380 mg) and benzene-1,4-diamine (257 mg) in N-methylpyrrolidone (5 mL) was stirred overnight at ambient temperature. After this time, the reaction mixture was diluted with water (50 mL) and extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with saturated sodium bicarbonate (50 ml) then brine (50 mL), dried over sodium sulfate, and filtered and the filtrate was concentrated under reduced pressure. The residue obtained was purified by chromatography (silica, methylene chloride to 3:97 methanol/methylene chloride) to afford N-(5-nitropyrimidin-4-yl)benzene-1,4-diamine (260 mg) as a brown oil.

reactant | 4-chloro-5-nitropyrimidine | 380 mg | ClC1=NC=NC=C1[N+](=O)[O-] | C4H2ClN3O2
reactant | benzene-1,4-diamine | 257 mg | C1(=CC=C(C=C1)N)N | C6H8N2
solvent | N-methylpyrrolidone | 5 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | 50 mL | O | H2O
product | N-(5-nitropyrimidin-4-yl)benzene-1,4-diamine | 260 mg | [N+](=O)([O-])C=1C(=NC=NC1)NC1=CC=C(C=C1)N | C10H9N5O2
